* MODELLING FOR STP20NM60

.SUBCKT STP20NM60 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  1.608
RS 9 12 0.561E-02
RD 7 6  0.151
RJ 8 7  0.571E-02
CGS 5 9   0.134E-08
CGD 7 10  0.189E-08
CK  11 7  0.261E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.104
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
.ENDS STP20NM60

.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 5.436
+ PHI   = 1.019
+ IS    = 0.1P
+ JS    = 0
+ THETA = 0.228
+ KP    = 15.548

.MODEL DGD D
+ IS    = 0.1P
+ CJO   = 0.323E-11
+ VJ    = 0.781
+ M     = 0.273
.MODEL DBD D
+ IS    = 0.1P
+ CJO   = 0.214E-10
+ VJ    = 0.776
+ M     = 0.291
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 644
+ N     = 1
+ TT    = 0.508E-06
+ RS    = 0.665E-02
.MODEL DID D
+ IS    = 0.1E-12
+ RS    = 0
+ BV    = 654
* END OF MODELLING
