*****************************************************************
******STMicroelectronics MOSFET, IGBT and Bipolar Library *******
*****************************************************************
*								                *
* Models provided by STMicroelectronics are not guaranteed to   *
* fully represent all the specifications and operating	    *
* characteristics of the product behavior that they reproduce.  *
* The model describes the characteristics of a typical device.  *
* In all cases, the current product data sheet contains all     *
* information to be used like final design guidelines and the   *
* only actual performance specification.                        *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions.						                *
* STMicroelectronics therefore does not assume any              *
* responsibility arising from their use.                        *
* STMicroelectronics reserves the right to change models 	    *
* without prior notice.                                         *
*                                                               *
*****************************************************************

* MODELLING FOR STP34NM60N

.SUBCKT STP34NM60N 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  2.899
RS 9 12 0.195E-02
RD 7 6  0.762E-01
RJ 8 7  0.181E-03
CGS 5 9   0.237E-08
CGD 7 10  0.282E-08
CK  11 7  0.677E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.933E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG

.MODEL MOS NMOS
+ LEVEL = 3
+ VTO   = 4.087
+ PHI   = 1.049
+ IS    = 0.1E-12
+ JS    = 0
+ THETA = 0.999E-01
+ KP    = 42.228
+ ETA   = 0.499E-03

.MODEL DGD D
+ IS    = 0.1E-12
+ CJO   = 0.367E-10
+ VJ    = 0.892
+ M     = 0.416
.MODEL DBD D
+ IS    = 0.1E-12
+ CJO   = 0.261E-11
+ VJ    = 0.876
+ M     = 0.248
.MODEL DBS D
+ IS    = 0.1E-12
+ BV    = 620
+ N     = 1
+ TT    = 0.474E-06
+ RS    = 0.329E-02
.MODEL DID D
+ IS    = 0.01E-12
+ RS    = 0
+ BV    = 630

.ENDS STP34NM60N

* END OF MODELLING
